US06939885B2
Synthesis of 4-tert-Butyl-N-[4-chloro-2-(6-methyl-pyridine-2-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-Amino-5-chloro-phenyl)-(6-methyl-pyridin-2-yl)-methanone and 4-tert-Butyl-benzenesulfonyl chloride and purified by HPLC. 1H NMR: δ 1.29 (s, 9H), 2.94 (s, 3H), 7.42-7.46 (m, 3H), 7.51 (d, J=8.8 Hz, 1H), 7.58 (d, J=2.0 Hz, 1H), 7.62 (d, J=7.2 Hz, 1H), 7.66 (d, J=6.8 Hz, 1H), 7.74 (d, J=8.0 Hz, 1H), 8.1 (bs, 1H). MS: M/z 443.1 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-(6-methyl-pyridin-2-yl)-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C1=NC(=CC=C1)C | C13H11ClN2O
reactant | 4-tert-Butyl-benzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-Butyl-N-[4-chloro-2-(6-methyl-pyridine-2-carbonyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C1=NC(=CC=C1)C | C23H23ClN2O3S
